US04503063
2-(2,4-Dichlorophenyl)-3-(N,N-dimethoxycarbonylcarbamoyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
3-Carbamoyl-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (0.94 g., 3 mmole) was added to a suspension of oil-free sodium hydride (0.14 g., 5.8 mmole) in dry tetrahydrofuran (10 ml). The suspension was stirred for one hour and then a solution of methyl chloroformate (0.6 g., 6.3 mmole) in dry tetrahydrofuran (10 ml) was added dropwise over 15 minutes. The mixture was stirred at room temperature for three hours and then the solvent was evaporated in vacuo. The residue was partitioned between saturated aqueous sodium bicarbonate solution (10 ml) and ethyl acetate (40 ml), and the organic phase was separated, washed with brine (10 ml), dried (MgSO4) and evaporated. The residue was chromatographed on silica eluting with ethyl acetate/methanol 95:5 (v:v), and the fractions containing the product were combined and evaporated and recrystallized from ethyl acetate-hexane to give the title compound, (62 mg, 5%), m.p. 155°-156° C.

reactant | 3-Carbamoyl-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 3 mmole, 0.94 g | C(N)(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H12Cl2N4O2
reactant | sodium hydride | 5.8 mmole, 0.14 g | [H-].[Na+]
reactant | methyl chloroformate | 6.3 mmole, 0.6 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2,4-Dichlorophenyl)-3-(N,N-dimethoxycarbonylcarbamoyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 62 mg, 5% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CC(N(C(=O)OC)C(=O)OC)=O)O | C16H16Cl2N4O6
